US07687435B2
2.1) Ethyl 1-benzyl-5-phenyl-4,5-dihydro-1H-imidazole-4-carboxylate
25.7 g (0.1305 mol) of benzylidenebenzylamine were dissolved in ethanol, and 15.2 g (0.1305 mol) of ethyl isocyanoacetate were added dropwise. The solution was heated under reflux for 16 h. Removal of the solvents and drying gave 40.2 g of the title compound as a colorless oil.

reactant | benzylidenebenzylamine | 0.1305 mol, 25.7 g | C(C1=CC=CC=C1)=NCC1=CC=CC=C1 | C14H13N
reactant | ethyl isocyanoacetate | 0.1305 mol, 15.2 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 1-benzyl-5-phenyl-4,5-dihydro-1H-imidazole-4-carboxylate | 40.2 g | C(C1=CC=CC=C1)N1C=NC(C1C1=CC=CC=C1)C(=O)OCC | C19H20N2O2
